US07259183B2
633 mg (2 mmol) of trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester (prepared as described in example S80) and 416 mg (2.2 mmol) of 2-(3-trifluoromethyl-phenyl) ethyl amine were dissolved in 10 ml DMF. Under argon at rt 13.4 mg (0.06 mmol) of palladium acetate and 24.8 mg (0.06 mmol) of dppp were added. The reaction mixture was evacuated and charged with carbon monoxide gas three times. The reaction mixture was heated to 70° C. under a carbon monoxide atmosphere for 1 h. Water was added and the reaction mixture was extracted twice with EtOAc. The combined organic layers were washed with 1N aqueous HCl solution, once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (45 g silica gel, heptane/EtOAc 7:3) to yield 298 mg (39%) of 4-tert-butyl-2-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide as a light yellow solid. 1H NMR (DMSO-d6, 300 MHz): δ 8.43 (t, 1H), 7.61-7.55 (m, 4H), 7.41 (s, 1H), 7.36 (d, 2H), 7.22 (d, 1H), 3.50 (q, 2H), 2.93 (t, 2H), 1.27 (s, 9H).

reactant | trifluoro-methanesulfonic acid 4-tert-butyl-2-chloro-phenyl ester | 2 mmol, 633 mg | C(C)(C)(C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)Cl | C11H12ClF3O3S
reactant | 2-(3-trifluoromethyl-phenyl) ethyl amine | 2.2 mmol, 416 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.06 mmol, 13.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | dppp | 0.06 mmol, 24.8 mg | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
product | 4-tert-butyl-2-chloro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 298 mg, 39% | C(C)(C)(C)C1=CC(=C(C(=O)NCCC2=CC(=CC=C2)C(F)(F)F)C=C1)Cl | C20H21ClF3NO
